US04420477
1-Oxalomethyl-1H-tetrazole-5-thiol (0.94 g) was dissolved in aqueous 60% ethanol (15 ml) containing sodium hydroxide (1.4 g) and to this solution was added portionwise zinc powder (0.98 g). The mixture was stirred at room temperature for 3.5 hours. After removal of zinc powder by filtration, ethanol was removed under reduced pressure and the remained aqueous solution was adjusted to pH 2.0 with 10% hydrochloric acid. Extraction with ethyl acetate, drying over magnesium sulfate and evaporation gave an oil which was triturated with a mixture of diisopropyl ether and n-hexane (1:1). The crystals were filtered and washed with a mixture of diisopropyl ether and n-hexane (1:1) to give 1-(2-carboxy-2-hydroxyethyl)-1H-tetrazole-5-thiol (0.40 g), mp 143° to 146° C.,

reactant | 1-Oxalomethyl-1H-tetrazole-5-thiol | 0.94 g | C(=O)(C(=O)O)CN1N=NN=C1S | C4H4N4O3S
reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | zinc | 0.98 g | [Zn] | Zn
product | 1-(2-carboxy-2-hydroxyethyl)-1H-tetrazole-5-thiol | 0.40 g | C(=O)(O)C(CN1N=NN=C1S)O | C4H6N4O3S
